US07273865B2
2-(4-Hydroxy-piperidin-1-ylmethyl)-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide
From 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine with 2-chloromethyl-isonicotinoyl chloride and N-ethyldiisopropylamine in 1,2-dichloroethane and THF; then subsequent treatment with 4-hydroxypiperidine in NMP. ES-MS m/e (%): 485 (M+H+, 100).

reactant | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
reactant | 2-chloromethyl-isonicotinoyl chloride | ClCC=1C=C(C(=O)Cl)C=CN1 | C7H5Cl2NO
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 2-(4-Hydroxy-piperidin-1-ylmethyl)-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide | OC1CCN(CC1)CC=1C=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=CN1 | C23H28N6O4S
